2106-10-19 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -2U PRBC for hct 25, repeat hct pending
   -T 100 overnight
   -small amt of loose, maroon stool overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2106-10-18**] 08:00 PM
   Metronidazole - [**2106-10-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-10-18**] 05:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: c/o pain in L arm at IV site, otherwise no abd pain,
   no CP, no SOB
   Flowsheet Data as of  [**2106-10-19**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 70 (70 - 93) bpm
   BP: 108/41(58) {90/41(56) - 127/67(77)} mmHg
   RR: 17 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  2,509 mL
                                                                  1,804 mL
   PO:
           TF:
   IVF:
                                                                  1,659 mL
                                                                  1,495 mL
   Blood products:
   308 mL
   Total out:
                                                                  1,997 mL
                                                                    340 mL
   Urine:
                                                                    410 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    512 mL
                                                                  1,464 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   HEENT: NCAT MMM mild scleral icterus
   CV:RRR S1S2 no m/r/g
   PULM: clear b/l
   ABD: soft nondistended, nontender +bs, no R/G
   EXT: WWW no cyanosis, edema, no rashes
   Labs / Radiology
   124 K/uL
   8.4 g/dL
   137 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.6 mEq/L
   16 mg/dL
   106 mEq/L
   141 mEq/L
   26.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2106-10-18**]  11:41 PM
                             [**2106-10-19**]  04:32 AM
   WBC
   5.0
   Hct
   25.0
   26.3
   Plt
   124
   Cr
   1.4
   Glucose
   137
   Other labs: ALT / AST:92/69, Alk Phos / T Bili:156/4.0, Amylase /
   Lipase:33/19, Differential-Neuts:83.1 %, Lymph:10.6 %, Mono:4.2 %,
   Eos:1.9 %, Albumin:2.8 g/dL, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   This is a [**Age over 90 **] year-old male with a history of CKD and BPH who presents
   from ERCP following sphincterotomy for choledocholithiasis complicated
   by GI bleed at sphincterotomy site.
   .
   Plan:
   # Choledocholithiasis s/p ERCP complicated by sphincterotomy bleed:
   Patient initially had drop from 36-->31. S/p 2U this morning, patient
   is having small amount of maroon stools and hct has only increased to
   26.5. Per ERCP, maroon stool is likely old blood and [**3-6**] procedure.
   This should decrease however if it increases in volume or becomes
   bright red, they will intervene. LFTs, AP have trended down which is
   promising however pancreatic enzymes have remained stable.
   - follow hct Q6H x 4 and transfuse if HCt drops <28
   - contact ERCP and follow recs
   - continue cipro/flagyl
   - Trend WBC count, fever curve, LFTs/[**Doctor First Name 293**]/Lipase, lactate
   - morphine IV, zofran prn for pain/nausea control
   - NPO for now
   -IV D5
 NS maintenance, bolus prn
   .
   # Chronic Kidney Failure stage III: At baseline of 1.5. Continue fluids
   to provide for good UOP.
   - continue to monitor, avoid nephrotoxins
   .
   # Thrombocytopenia: Has low baseline dating back to [**2103**] in low 130s.
   This is likely a chronic issue and may be due to chronic kidney
   disease,? etoh/tobacco use in the past. However would benefit from
   medication overview to ensure none of his home meds are causing this.
   -          follow CBC
   -          -avoid medications that may exacerbate thrombocytopenia if
   possible
   .
   # Anemia, [**3-6**] acute blood loss: Baseline of HCT 42. Currently
   transfusing for hct >28.
   - continue to monitor Q6H in setting of sphincterotomy bleed and maroon
   stools
   - transfusion threshold as above
   .
   # BPH: Continue on outpatient regimen of finasteride, doxazosin
   .
   # FEN:  NPO per GI, IV D5
 NS, monitor and replete lytes prn
   .
   # Access: 2 PIV
   .
   # PPx: pneumoboots, PPI, hold on bowel regimen
   .
   # Code: DNR/DNI
   .
   # Dispo:  ICU care for now until HD stable
   .
   # Comm:  Daughter at bedside, Son [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 759**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-10-19**] 04:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-10-20 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -1U PRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2106-10-19**] 07:40 PM
   Metronidazole - [**2106-10-20**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-10-19**] 06:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-20**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 75 (63 - 87) bpm
   BP: 113/63(75) {103/49(61) - 142/67(85)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,798 mL
                                                                    935 mL
   PO:
             TF:
   IVF:
                                                                  4,173 mL
                                                                    935 mL
   Blood products:
                                                                    625 mL
   Total out:
                                                                  3,020 mL
                                                                    920 mL
   Urine:
                                                                  2,920 mL
                                                                    920 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,778 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   124 K/uL
   8.4 g/dL
   137 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.6 mEq/L
   16 mg/dL
   106 mEq/L
   141 mEq/L
   28.9 %
   5.0 K/uL
        [image002.jpg]
                             [**2106-10-18**]  11:41 PM
                             [**2106-10-19**]  04:32 AM
                             [**2106-10-19**]  11:00 AM
                             [**2106-10-19**]  04:29 PM
                             [**2106-10-20**]  12:44 AM
   WBC
   5.0
   Hct
   25.0
   26.3
   28.8
   29.4
   28.9
   Plt
   124
   Cr
   1.4
   Glucose
   137
   Other labs: ALT / AST:92/69, Alk Phos / T Bili:156/4.0, Amylase /
   Lipase:33/19, Differential-Neuts:83.1 %, Lymph:10.6 %, Mono:4.2 %,
   Eos:1.9 %, Albumin:2.8 g/dL, LDH:397 IU/L, Ca++:7.4 mg/dL, Mg++:2.0
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   This is a [**Age over 90 **] year-old male with a history of CKD and BPH who presents
   from ERCP following sphincterotomy for choledocholithiasis complicated
   by GI bleed at sphincterotomy site.
   .
   Plan:
   # Choledocholithiasis s/p ERCP complicated by sphincterotomy bleed:
   Patient initially had drop from 36-->31. S/p 2U this morning, patient
   is having small amount of maroon stools and hct has only increased to
   26.5. Per ERCP, maroon stool is likely old blood and [**3-6**] procedure.
   This should decrease however if it increases in volume or becomes
   bright red, they will intervene. LFTs, AP have trended down which is
   promising however pancreatic enzymes have remained stable.
   - follow hct Q6H x 4 and transfuse if HCt drops <28
   - contact ERCP and follow recs
   - continue cipro/flagyl
   - Trend WBC count, fever curve, LFTs/[**Doctor First Name 293**]/Lipase, lactate
   - morphine IV, zofran prn for pain/nausea control
   - NPO for now
   -IV D5
 NS maintenance, bolus prn
   .
   # Chronic Kidney Failure stage III: At baseline of 1.5. Continue fluids
   to provide for good UOP.
   - continue to monitor, avoid nephrotoxins
   .
   # Thrombocytopenia: Has low baseline dating back to [**2103**] in low 130s.
   This is likely a chronic issue and may be due to chronic kidney
   disease,? etoh/tobacco use in the past. However would benefit from
   medication overview to ensure none of his home meds are causing this.
   -          follow CBC
   -          -avoid medications that may exacerbate thrombocytopenia if
   possible
   .
   # Anemia, [**3-6**] acute blood loss: Baseline of HCT 42. Currently
   transfusing for hct >28.
   - continue to monitor Q6H in setting of sphincterotomy bleed and maroon
   stools
   - transfusion threshold as above
   .
   # BPH: Continue on outpatient regimen of finasteride, doxazosin
   .
   # FEN:  NPO per GI, IV D5
 NS, monitor and replete lytes prn
   .
   # Access: 2 PIV
   .
   # PPx: pneumoboots, PPI, hold on bowel regimen
   .
   # Code: DNR/DNI
   .
   # Dispo:  to floor if HD stable
   .
   # Comm:  Daughter at bedside, Son [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 759**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-10-19**] 04:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-10-20 10:18:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   HCT at 28.9 this am
   Some maroon stool noted, no evidence of brisk bleeding note.
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2106-10-19**] 07:40 PM
   Metronidazole - [**2106-10-20**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-10-19**] 06:37 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-20**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 70 (63 - 87) bpm
   BP: 115/58(72) {103/48(61) - 142/67(85)} mmHg
   RR: 12 (10 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,798 mL
                                                                  1,069 mL
   PO:
             TF:
   IVF:
                                                                  4,173 mL
                                                                  1,069 mL
   Blood products:
                                                                    625 mL
   Total out:
                                                                  3,020 mL
                                                                  1,460 mL
   Urine:
                                                                  2,920 mL
                                                                  1,460 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,778 mL
                                                                   -391 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   136 K/uL
   109 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.5 mEq/L
   9 mg/dL
   109 mEq/L
   139 mEq/L
   28.3 %
   4.1 K/uL
        [image002.jpg]
                             [**2106-10-18**]  11:41 PM
                             [**2106-10-19**]  04:32 AM
                             [**2106-10-19**]  11:00 AM
                             [**2106-10-19**]  04:29 PM
                             [**2106-10-20**]  12:44 AM
                             [**2106-10-20**]  04:40 AM
   WBC
   5.0
   4.1
   Hct
   25.0
   26.3
   28.8
   29.4
   28.9
   28.3
   Plt
   124
   136
   Cr
   1.4
   1.3
   Glucose
   137
   109
   Other labs: PT / PTT / INR:13.8//1.2, ALT / AST:67/58, Alk Phos / T
   Bili:140/1.9, Amylase / Lipase:33/19, Differential-Neuts:83.1 %,
   Lymph:10.6 %, Mono:4.2 %, Eos:1.9 %, Albumin:2.7 g/dL, LDH:130 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo male admit to ICU with GIB following sphincterotomy for biliary
   stone extraction.  He has had reasonable stability in regards to HCT
   making the source of bleeding most likely well controlled with recent
   intervention.  He had one unit PRBC in past 24 hours
   1)GI Bleed-
   HCT check q 12 hours
   Continue PPI
   2)Cholelithiasis-
   ERCP team following
   Expect continued decline in liver associated enzymes
   F/U management of stent per GI team
   Cipro/Flagyl to continue
   ICU Care
   Nutrition: Clears and consider advance to diet per ERCP team
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-10-19**] 04:44 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40 minutes